US20010007873A1
E. 2-Cyclopentyl4-benzyloxy-benzeneboronic acid
Prepared by lithiation of 1-bromo-2-cyclopentyl4-benzyloxy-benzene with n-BuLi followed by addition of B(OEt)3, as described in Example 1 D, in 80% yield.

reactant | 1-bromo-2-cyclopentyl4-benzyloxy-benzene | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)C1CCCC1 | C18H19BrO
reactant | n-BuLi | [Li]CCCC
reactant | B(OEt)3 | B(OCC)(OCC)OCC | C6H15BO3
product | 2-Cyclopentyl4-benzyloxy-benzeneboronic acid | 80% yield | C1(CCCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)B(O)O | C18H21BO3
